US03957999
4-(2-Pyrrolidin-1-ylethoxy)aniline (17.3 g.) in ethanol (20 ml.) is added dropwise to a mixture of ethanol (55 ml.), carbon disulphide (10 ml.) and aqueous ammonia (density = 0.88, 20 ml.) at 0°C. After 2 hours the solid is collected and washed with acetone, m.p. 143° - 150°C. (dec.). This solid (23.6 g.), chloroform (114 ml.) and triethylamine (11.9 ml.) are stirred, and ethyl chloroformate (8.6 ml.) added with cooling so that the temperature remains below 0°C. After stirring for 30 minutes below 0°C. and 1 hour at 20°C., excess of 10% sodium hydroxide is added. The chloroform is separated, washed with water, dried and evaporated. The residue is dissolved in benzene and the solution filtered through alumina. The filtrate is evaporated and the residue distilled to give 4-(2-pyrrolidin-1-ylethoxy)phenyl isothiocyanate, b.p. 160° - 168°C./0.2 mm.

reactant | 4-(2-Pyrrolidin-1-ylethoxy)aniline | 17.3 g | N1(CCCC1)CCOC1=CC=C(N)C=C1 | C12H18N2O
reactant | carbon disulphide | 10 ml | C(=S)=S | CS2
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 55 ml | C(C)O | C2H6O
product | 4-(2-pyrrolidin-1-ylethoxy)phenyl isothiocyanate | N1(CCCC1)CCOC1=CC=C(C=C1)N=C=S | C13H16N2OS
